US05866560
b) 11β-Fluoro-3-methoxy-estra-3,5-dien-17-one
7.8 g of 11β-fluoro-estr-4-ene-3,17-dione is stirred in 40 ml of 2,2-dimethoxy-propane with 780 mg of pyridinium-toluene-4-sulfonate for 5 hours at 80° C. Then, 1.5 ml of triethylamine is added, it is diluted with ethyl acetate and washed with saturated sodium chloride solution. After crystallization from methanol, 5.3 g of 11β-fluoro-3-methoxy-estra-3,5-dien-17-one with a melting point of 173° C. is obtained.

reactant | 11β-fluoro-estr-4-ene-3,17-dione | 7.8 g | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C18H23FO2
reactant | pyridinium toluene-4-sulfonate | 780 mg | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | 2,2-dimethoxy-propane | 40 ml | COC(C)(C)OC | C5H12O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-Fluoro-3-methoxy-estra-3,5-dien-17-one | F[C@@H]1[C@@H]2[C@H]3CCC(=CC3=CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)OC | C19H25FO2
